US04602109
Part E: Preparation of 2,5-dimethyl-3-chloro-4-(4-[4- Chlorobenzoyl]phenoxy)aniline
A mixture of 2,5-dimethyl-3-chloro-4-(4-[4-chlorobenzoyl]phenoxy)nitrobenzene (5.95 g, 14 mmol), toluene (160 mL), and 5% platinum on carbon (0.65 g) was subjected to hydrogenation at the pressure ≤24 psi. After 8 h one reaction was found to be partly completed. Additional catalyst (0.2 g of 5% pt/c) was added. The reaction was close to completion by the end of additional 4 h. The mixture was filtered and the filtrate was concentrated to give an amber foam. This foam was dissolved in an ethyl acetate (5 mL) and hexane (10 mL). Solid formed after the addition of seed crystal and vigorous stirring. A tan powder was obtained after filtration (3.93 g); mp 113°-122°. In a similar experiment a buff powder was obtained; IR (CHCl3) 3020, 2405, 1650, 1600 cm-1 ; NMR (CDCl3) δ 6.6-7.8 (M, 8H), 6.5 (S, 1H) 3.5 (br, 2H), 2.2 (S, 3H), 2.1 (S, 3H)

reactant | 2,5-dimethyl-3-chloro-4-(4-[4-chlorobenzoyl]phenoxy)nitrobenzene | 14 mmol, 5.95 g | CC1=C(C=C(C(=C1Cl)OC1=CC=C(C=C1)C(C1=CC=C(C=C1)Cl)=O)C)[N+](=O)[O-] | C21H15Cl2NO4
reactant | toluene | 160 mL | C1(=CC=CC=C1)C | C7H8
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
catalyst | platinum on carbon | 0.65 g | [Pt] | Pt
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | hexane | 10 mL | CCCCCC | C6H14
product | 2,5-dimethyl-3-chloro-4-(4-[4- Chlorobenzoyl]phenoxy)aniline | CC1=C(N)C=C(C(=C1Cl)OC1=CC=C(C=C1)C(C1=CC=C(C=C1)Cl)=O)C | C21H17Cl2NO2
